US05374641
To 2.00 g of methyl 4-[2-oxo-2-(3-pyridyl)ethyl]benzoate was added 14.8 g of ammonium formate, for reaction at 150° C. for four hours, and followed by addition of water after cooling and extraction with chloroform. The organic phase was washed in saturated aqueous sodium chloride solution, dried over magnesium sulfate, followed by distillation of the solvent, to produce the residue. The residue was subjected to chromatography on a silica gel column, which was then eluted with chloroform-methanol (25:1 ) to produce 0.81 g of methyl 4-[2-formamido-2-(3-pyridyl)ethyl]benzoate.

reactant | methyl 4-[2-oxo-2-(3-pyridyl)ethyl]benzoate | 2.00 g | O=C(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C15H13NO3
reactant | ammonium formate | 14.8 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
product | methyl 4-[2-formamido-2-(3-pyridyl)ethyl]benzoate | 0.81 g | C(=O)NC(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C16H16N2O3
